US07259183B2
Preparation of (3-chloro-4-trifluoromethyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to [2-(3,4-dichloro-phenyl)-ethyl]-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-amine (described in example S98) using 200 mg of 3-chloro-4-trifluoromethyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (0.51 mmol) and 2.02 ml of a 1 molar solution of BH3-THF complex in THF. The isolated residue was purified by flash column chromatography to give 180 mg of (3-chloro-4-trifluoromethyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine (93%) as a colorless oil. MS (ISP) 382.1 (M+H)+.

reactant | [2-(3,4-dichloro-phenyl)-ethyl]-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-amine | ClC=1C=C(C=CC1Cl)CCNCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H15Cl2F6NO
reactant | 3-chloro-4-trifluoromethyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 0.51 mmol, 200 mg | ClC=1C=C(C(=O)NCCC2=CC(=CC=C2)C(F)(F)F)C=CC1C(F)(F)F | C17H12ClF6NO
solvent | THF | C1CCOC1 | C4H8O
product | (3-chloro-4-trifluoromethyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 180 mg, 93% | ClC=1C=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=CC1C(F)(F)F | C17H14ClF6N
